US06551831B2
Preparation of 3-(2-Hydroxy)ethyl-2-methylbenzothiazolium Bromide (11b).
A solution of 2-methylbenzothiazole (5.87 g) and bromoethanol (49.2 g) were stirred in an oil bath at 110° C. for 18 hours. Added ethyl acetate (100 mL) to the reaction mixture and decanted. The residual solid was then dissolved in methanol (50 mL) and precipitated with ethyl acetate (300 mL). The solid was again recrystallized from methanol-ethyl acetate (15 mL/150 mL), washed with ethyl acetate (2×25 mL) and dried in an oven under high vacuum at 50° C. overnight. The yield was 4.21 g (39%). TLC (silica gel, 4:1 methylene chloride-methanol) Rf=0.34.

reactant | 2-methylbenzothiazole | 5.87 g | CC=1SC2=C(N1)C=CC=C2 | C8H7NS
reactant | bromoethanol | 49.2 g | BrC(C)O | C2H5BrO
product | 3-(2-Hydroxy)ethyl-2-methylbenzothiazolium Bromide | [Br-].OCC[N+]1=C(SC2=C1C=CC=C2)C | InChI=1S/C10H12NOS.BrH/c1-8-11(6-7-12)9-4-2-3-5-10(9)13-8;/h2-5,12H,6-7H2,1H3;1H/q+1;/p-1
